US06743776B2
To a suspension of sodium hydride (60% suspension in mineral oil) (1.18 g) in dimethylformamide (25 ml) was added 1-acetyl-4-(4-hydroxyphenyl)piperazine (5 g) and bromocyclohexane (5.59 ml) and stirred for 1 hour at 100° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-acetyl-4-(4-cyclohexyloxyphenyl)piperazine (0.92 g).

reactant | sodium hydride | 1.18 g | [H-].[Na+]
reactant | 1-acetyl-4-(4-hydroxyphenyl)piperazine | 5 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C12H16N2O2
reactant | bromocyclohexane | 5.59 ml | BrC1CCCCC1 | C6H11Br
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-4-(4-cyclohexyloxyphenyl)piperazine | 0.92 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OC1CCCCC1 | C18H26N2O2
